*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e+00[uF]/4[V]
* Murata P/N :GRT155R70G105KE01
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R70G105KE01 Port1 Port2
C01 Port1 N01 5.56e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.60e-10
R03 N02 N03 1.09e-02
C04 N03 N04 1.75e-05
R04 N03 N04 1.71e+02
C05 N04 N05 1.61e-05
R05 N04 N05 2.27e+01
C06 N05 N06 1.50e-05
R06 N05 N06 3.11e+00
C07 N06 N07 1.49e-05
R07 N06 N07 4.02e-01
C08 N07 N08 1.17e-05
R08 N07 N08 7.83e-02
C09 N08 N09 1.13e-05
R09 N08 N09 1.43e-02
L10 N09 N10 3.68e-11
R10 N09 N10 2.27e-01
L11 N10 N11 1.07e-10
R11 N10 N11 4.26e-02
C12 N11 N12 6.55e-06
L12 N11 N12 8.10e-12
R12 N11 N12 3.35e-03
C13 N12 N13 6.65e-07
L13 N12 N13 3.97e-11
R13 N12 N13 1.15e-02
C14 N13 Port2 9.03e-12
L14 N13 Port2 2.22e-11
R14 N13 Port2 2.84e+00
.ENDS GRT155R70G105KE01
