*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.70e-04[uF]/50[V]
* Murata P/N :GRT155R71H271KE01
* Property : C = 2.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R71H271KE01 Port1 Port2
C01 Port1 N01 2.59e-10
R01 Port1 N01 1.00e+09
L02 N01 N02 1.94e-10
R03 N02 N03 5.25e-01
C04 N03 N04 3.04e-08
R04 N03 N04 1.05e+05
C05 N04 N05 5.15e-08
R05 N04 N05 1.12e+04
C06 N05 N06 4.29e-08
R06 N05 N06 1.82e+03
C07 N06 N07 3.81e-08
R07 N06 N07 2.09e+02
C08 N07 N08 3.17e-08
R08 N07 N08 2.92e+01
C09 N08 N09 4.15e-08
R09 N08 N09 4.81e+00
C10 N09 N10 1.40e-08
R10 N09 N10 2.53e+00
C11 N10 N11 4.90e-09
R11 N10 N11 9.84e-01
C12 N11 N12 1.43e-09
R12 N11 N12 5.06e-01
C13 N12 N13 3.88e-11
L13 N12 N13 5.33e-11
R13 N12 N13 1.36e+00
C14 N13 Port2 2.68e-12
L14 N13 Port2 1.31e-10
R14 N13 Port2 1.28e+01
.ENDS GRT155R71H271KE01
