*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.70e-03[uF]/50[V]
* Murata P/N :GRT155R71H272KE01
* Property : C = 2.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R71H272KE01 Port1 Port2
C01 Port1 N01 2.78e-09
R01 Port1 N01 1.00e+09
L02 N01 N02 1.51e-10
R03 N02 N03 1.30e-01
C04 N03 N04 3.02e-07
R04 N03 N04 8.48e+03
C05 N04 N05 3.99e-07
R05 N04 N05 4.77e+02
C06 N05 N06 4.04e-07
R06 N05 N06 4.15e+01
C07 N06 N07 3.37e-07
R07 N06 N07 5.24e+00
C08 N07 N08 3.02e-07
R08 N07 N08 8.11e-01
C09 N08 N09 1.53e-07
R09 N08 N09 2.41e-01
C10 N09 N10 3.78e-08
R10 N09 N10 1.03e-01
L11 N10 N11 5.15e-11
R11 N10 N11 5.23e-01
C12 N11 N12 2.18e-09
L12 N11 N12 2.91e-11
R12 N11 N12 1.22e-01
C13 N12 Port2 2.28e-12
L13 N12 Port2 1.22e-10
R13 N12 Port2 1.92e+01
.ENDS GRT155R71H272KE01
