*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/8.20e-04[uF]/50[V]
* Murata P/N :GRT155R71H821KE01
* Property : C = 8.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R71H821KE01 Port1 Port2
C01 Port1 N01 8.59e-10
R01 Port1 N01 1.00e+09
L02 N01 N02 8.81e-11
R03 N02 N03 2.50e-01
C04 N03 N04 1.14e-07
R04 N03 N04 2.23e+04
C05 N04 N05 1.91e-07
R05 N04 N05 2.81e+03
C06 N05 N06 1.40e-07
R06 N05 N06 5.60e+02
C07 N06 N07 1.19e-07
R07 N06 N07 5.35e+01
C08 N07 N08 9.21e-08
R08 N07 N08 8.10e+00
C09 N08 N09 6.63e-08
R09 N08 N09 1.41e+00
C10 N09 N10 3.02e-08
R10 N09 N10 4.79e-01
C11 N10 N11 6.36e-09
R11 N10 N11 2.63e-01
L12 N11 N12 4.21e-11
R12 N11 N12 1.06e+00
C13 N12 N13 5.48e-10
L13 N12 N13 2.20e-11
R13 N12 N13 2.35e-01
C14 N13 Port2 1.15e-12
L14 N13 Port2 1.93e-10
R14 N13 Port2 2.39e+01
.ENDS GRT155R71H821KE01
